US05731315
A. Benzo[b]thiophene-2-sulfonic acid [1-(3-cyanobenzyl)-2-oxo-pyrrolidin-3-(S)-yl]-methylamide
To a solution of benzo[b]thiophene-2-sulfonic acid [1-(3-cyano-benzyl)-2-oxo-pyrrolidin-3-(S)-yl]-amide (0.25 g, 0.61 mmol) in 3 mL of DMF is added methyl iodide (0.13 g, 0.91 mmol) followed by K2CO3 (0.13 g, 0.91 mmol). The solution is stirred at ambient temperatures for 6 h. After this time, the solution is diluted with H2O and EtOAc. The layers are separated. The organic layer is washed with H2O and saturated NaCl. The organic layer is dried over MgSO4, filtered and concentrated. The residue is triturated with Et2O to give the title compound (0.25 g, 0.59 mmol) as a white solid.

reactant | benzo[b]thiophene-2-sulfonic acid [1-(3-cyano-benzyl)-2-oxo-pyrrolidin-3-(S)-yl]-amide | 0.61 mmol, 0.25 g | C(#N)C=1C=C(CN2C([C@H](CC2)NS(=O)(=O)C2=CC3=C(S2)C=CC=C3)=O)C=CC1 | C20H17N3O3S2
reactant | methyl iodide | 0.91 mmol, 0.13 g | CI | CH3I
reactant | K2CO3 | 0.91 mmol, 0.13 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | H2O | O | H2O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | Benzo[b]thiophene-2-sulfonic acid [1-(3-cyanobenzyl)-2-oxo-pyrrolidin-3-(S)-yl]-methylamide | 0.59 mmol, 0.25 g | C(#N)C=1C=C(CN2C([C@H](CC2)N(S(=O)(=O)C2=CC3=C(S2)C=CC=C3)C)=O)C=CC1 | C21H19N3O3S2
